US04009166
To a solution of 2.3 g of 2-(m-fluoroanilino)-3-methylaminomethylpyridine was added 0.96 g of approximately 50% sodium hydride and the mixture was stirred at room temperature for 30 minutes. To this was added 10 g of approximately 30% carbon tetrachloride-phosgene solution, dropwise under ice-cooling, and the resulting mixture was stirred for 1 hour. After an excess of the phosgene was decomposed with 10% acetone-ammonia solution, the solvent was removed from the reaction mixture by distillation under reduced pressure. The residue thus obtained was diluted with water, extracted with ether and dehydrated. The ether solution was applied on a column of alumina and then eluted with ether. The eluate was concentrated and left to give 1.3 g of 1-(m-fluorophenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine as colorless prisms, melting at 189° - 192° C.

reactant | 2-(m-fluoroanilino)-3-methylaminomethylpyridine | 2.3 g | FC=1C=C(NC2=NC=CC=C2CNC)C=CC1 | C13H14FN3
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | carbon tetrachloride phosgene | 10 g | C(Cl)(Cl)(Cl)Cl.C(=O)(Cl)Cl
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | acetone ammonia | CC(=O)C.N
solvent | water | O | H2O
product | 1-(m-fluorophenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 1.3 g | FC=1C=C(C=CC1)N1C(N(CC2=C1N=CC=C2)C)=O | C14H12FN3O
